US09060517B2
41 g of the crude product of 6,7-difluoroisatin were added to 200 mL of water followed the addition of 75.3 g (6 equivalents) of potassium hydroxide while cooling with ice and stirring the mixture for 30 minutes. 42 g (1.4 equivalents) of bromoacetophenone were dropped into the resultant suspension at a temperature of 20° C. to 25° C. Following completion of dropping, the reaction mixture was stirred overnight at room temperature. The resultant was then neutralized with concentrated hydrochloric acid. The precipitated crystals were removed by filtration and washed with a small amount of water. The resulting crystals were dried, and then added to 100 mL of nitrobenzene a little at a time at 130° C. to 140° C. Following completion of addition, the reaction mixture was stirred for 1 hour at 150° C. After cooling the reaction mixture to room temperature, the precipitated crystals were washed with chloroform to obtain 26.3 g of 7,8-difluoro-3-hydroxy-2-methylquinoline.

reactant | 6,7-difluoroisatin | FC1=CC=C2C(C(NC2=C1F)=O)=O | C8H3F2NO2
reactant | potassium hydroxide | 75.3 g, 6 equivalents | [OH-].[K+]
reactant | bromoacetophenone | 42 g, 1.4 equivalents | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | hydrochloric acid | Cl | ClH
solvent | water | 200 mL | O | H2O
product | 7,8-difluoro-3-hydroxy-2-methylquinoline | 26.3 g | FC1=CC=C2C=C(C(=NC2=C1F)C)O | C10H7F2NO
